US05106871
Then, 21.03 g of the so-obtained 4,4'-dibenzyloxy2'-hydroxy-3'-(3-methyl-2-butenyl)chalcone was added to 200 ml of an ethyl acetate suspension of 7.01 g of 5% palladium/carbon, in which hydrogen had been adsorbed in advance, and the mixture was stirred at room temperature for 6 hours and hydrogen was absorbed. After the reaction, the suspension was filtered to remove the palladium/carbon, and the solvent was removed from the filtrate by distillation and the obtained residue was recrystallized from benzene to obtain 11.85 g (yield=86.6%) of 1-(2,4-dihydroxy-3-isopentylphenyl)-3-(4-hydroxyphenyl)-1-propanone in the form of a colorless needle.

reactant | 4,4'-dibenzyloxy2'-hydroxy-3'-(3-methyl-2-butenyl)chalcone | 21.03 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=CC(=O)C1=C(C(=C(C=C1)OCC1=CC=CC=C1)CC=C(C)C)O | C34H32O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium/carbon | 7.01 g | [Pd] | Pd
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2,4-dihydroxy-3-isopentylphenyl)-3-(4-hydroxyphenyl)-1-propanone | 11.85 g, yield=86.6% | OC1=C(C=CC(=C1CCC(C)C)O)C(CCC1=CC=C(C=C1)O)=O | C20H24O4
